US07037909B2
4-[6-(2-Diethylamino-ethyl)-5,8-dimethyl-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluoren-3-ylmethyl]-phenol hydrochloride
0.60 mmol of 5-(2-Diethylamino-ethyl)-4,7-dimethyl-1H-indole-2,3-dione hydrochloride (186.5 mg) and 0.70 mmol of 4-(4,5-diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol (144 mg) in 1.5 mL of ethylene glycol was stirred at 125° C. for 1 day. The mixture was cooled to room temperature, diluted with water (5 mL), stirred for 10 min. Allowed to crystallize in a refrigerator (+5° C.) overnight. The precipitated product was collected by filtration, washed with water (3×1 mL) and dried on high vacuum.

reactant | 5-(2-Diethylamino-ethyl)-4,7-dimethyl-1H-indole-2,3-dione hydrochloride | 0.60 mmol, 186.5 mg | Cl.C(C)N(CCC=1C(=C2C(C(NC2=C(C1)C)=O)=O)C)CC
reactant | 4-(4,5-diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol | 0.70 mmol, 144 mg | NN1C(=NN=C1N)CC1=CC=C(C=C1)O | C9H11N5O
solvent | ethylene glycol | 1.5 mL | C(CO)O | C2H6O2
solvent | water | 5 mL | O | H2O
product | 4-[6-(2-Diethylamino-ethyl)-5,8-dimethyl-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluoren-3-ylmethyl]-phenol hydrochloride | Cl.C(C)N(CCC=1C(=C2C3=NN4C(N=C3NC2=C(C1)C)=NN=C4CC4=CC=C(C=C4)O)C)CC | InChI=1S/C25H29N7O.ClH/c1-5-31(6-2)12-11-18-13-15(3)22-21(16(18)4)23-24(26-22)27-25-29-28-20(32(25)30-23)14-17-7-9-19(33)10-8-17;/h7-10,13,33H,5-6,11-12,14H2,1-4H3,(H,26,27,29);1H
